US07582640B2
Synthesis of 4,6-dihydroxy-5-methyl-pyrimidine
102 ml (282 mmoles) of a solution of sodium ethylate at 21% in ethanol is added to a solution of 7.5 g (94 mmoles) of formamidine hydrochloride in 250 ml of ethanol cooled down to 0° C. and the mixture is stirred for 30 minutes; then a solution of 13 ml (94 mmoles) of diethyl methyl malonate in 50 ml of ethanol is added followed by stirring overnight at ambient temperature. The reaction mixture is evaporated to dryness under reduced pressure (2 kPa) and the residue is taken up in ethyl acetate, water and acetic acid in order to adjust the pH to 6. The precipitate is filtered then washed successively with water, isopropanol, diethyl ether and finally with pentane. 7 g (Yield=60%) of expected product is obtained in the form of a beige solid.

reactant | sodium ethylate | CC[O-].[Na+]
reactant | formamidine hydrochloride | 94 mmoles, 7.5 g | Cl.C(=N)N
reactant | diethyl methyl malonate | 94 mmoles, 13 ml | CCC(C(=O)OC)C(=O)OCC | C8H14O4
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4,6-dihydroxy-5-methyl-pyrimidine | 7 g, Yield=60% | OC1=NC=NC(=C1C)O | C5H6N2O2
